US07091215B2
N-[7-(2,4-Dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]-N-(2-methoxyethyl)amine
After dissolving tert-butyl N-[7-(2,4-dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]carbamate (57 mg) in N,N-dimethylformamide (2 mL), sodium hydride (60%, 7.3 mg) was added while cooling on ice, and then 2-bromoethyl methyl ether (0.015 mL) was added and the mixture was stirred for 1 hour. Water was added to the reaction mixture, extraction was performed with ethyl acetate and the extract was washed with brine. The obtained organic layer was dried over anhydrous magnesium sulfate and filtered, and then the solvent was concentrated under reduced pressure to obtain a crude product. This was dissolved in ethyl acetate (1 mL) without purification, a 4 N hydrochloric acid/ethyl acetate solution (2 mL) was added, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was neutralized with 5 N aqueous sodium hydroxide while cooling on ice, and then extraction was performed with ethyl acetate and the organic layer was washed with water and brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (46 mg) was obtained from the n-hexane:ethyl acetate (5:1) fraction as a yellow oil.

reactant | tert-butyl N-[7-(2,4-dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]carbamate | 57 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)CC | C20H21Cl2N3O2
reactant | sodium hydride | 7.3 mg | [H-].[Na+]
reactant | 2-bromoethyl methyl ether | 0.015 mL | COCCBr | C3H7BrO
reactant | hydrochloric acid ethyl acetate | 4 N, 2 mL | Cl.C(C)(=O)OCC
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | N-[7-(2,4-Dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]-N-(2-methoxyethyl)amine | 46 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2N1N=C(C2NCCOC)CC | C18H19Cl2N3O
